* Schematics Netlist *



V_V1         x a 20V
V_V2         $N_0001 $N_0002 10V
R_R1         x $N_0001  20  
R_R2         0 $N_0002  5  
R_R4         0 $N_0003  10  
R_R5         $N_0003 $N_0004  50  
R_R3         a 0  30  
H_H1         $N_0003 0 VH_H1 1
VH_H1        x 0 0V
G_G1         $N_0001 $N_0004 a 0 1
R_R6         x 0  50  
